US04599344
2-[3-(4-Aminophenyl)propyl]-1-azabicyclo[2.2.2]octan-3-one dihydrochloride
To a Parr bottle add 9.74 g (0.03 mole) of 2-[3-(4-nitrophenyl)propyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride, 150 ml of methanol and 0.5 g of 10% palladium on charcoal catalyst (wet with 2-3 ml of water). Place the bottle on a hydrogenator, flush the system three times with hydrogen and pressurize the system to 25 p.s.i. Shake the reaction mixture and follow the reaction by thin-layer chromatography on silica gel (acetonitrile:ammonium hydroxide, 95:5). At the completion of the reaction remove the catalyst by vacuum filtration. Wash the catalyst with methanol, to the filtrate add 5 ml of concentrated hydrochloric acid. Remove the solvent in vacuo to afford the title compound.

reactant | 2-[3-(4-nitrophenyl)propyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride | 0.03 mole, 9.74 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCCC1N2CCC(C1=O)CC2
catalyst | palladium on charcoal | 2-3 ml, 0.5 g | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | 2-[3-(4-Aminophenyl)propyl]-1-azabicyclo[2.2.2]octan-3-one dihydrochloride | Cl.Cl.NC1=CC=C(C=C1)CCCC1N2CCC(C1=O)CC2 | InChI=1S/C16H22N2O.2ClH/c17-14-6-4-12(5-7-14)2-1-3-15-16(19)13-8-10-18(15)11-9-13;;/h4-7,13,15H,1-3,8-11,17H2;2*1H
